US08030304B2
3-[4-Bromo-2-(2-methyl-2H-[1,2,4]triazol-3-yl)-thiazol-5-yl]-2,5-dimethyl-7-(1-propyl-butyl)-pyrazolo[1,5-a]pyrimidine
To a solution of 2,5-dimethyl-3-[2-(2-methyl-2H-[1,2,4]triazol-3-yl)-thiazol-5-yl]-7-(1-propyl-butyl)-pyrazolo[1,5-a]pyrimidine (6 g, 14.65 mmol) in acetonitrile (60 mL) add N-bromosuccinimide (2.74 g, 15.4 mmol) in one portion and stir at 22° C. for 10 h. Evaporate the solvent and dissolve the residue in a mixture of water (50 mL) and methyl-t-butyl ether (100 mL). Separate the organic layer and extract the aqueous layer with additional methyl-t-butyl ether (2×50 mL). Combine the organic portions and evaporate the solvent. Purify the resulting material by filtration through a silica gel pad, eluting with hexanes/ethyl acetate (3/1). Combine the product containing fractions and evaporate the solvent. Add heptanes (25 mL) and triturate the solid. Filter the solid and dry under vacuum to afford the title compound (5.5 g, 77%). ES/MS m/z (79Br/81Br) 488/490 (M+1)+.

reactant | 2,5-dimethyl-3-[2-(2-methyl-2H-[1,2,4]triazol-3-yl)-thiazol-5-yl]-7-(1-propyl-butyl)-pyrazolo[1,5-a]pyrimidine | 14.65 mmol, 6 g | CC1=NN2C(N=C(C=C2C(CCC)CCC)C)=C1C1=CN=C(S1)C=1N(N=CN1)C | C21H27N7S
reactant | N-bromosuccinimide | 15.4 mmol, 2.74 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
product | 3-[4-Bromo-2-(2-methyl-2H-[1,2,4]triazol-3-yl)-thiazol-5-yl]-2,5-dimethyl-7-(1-propyl-butyl)-pyrazolo[1,5-a]pyrimidine | 5.5 g, 77% | BrC=1N=C(SC1C=1C(=NN2C1N=C(C=C2C(CCC)CCC)C)C)C=2N(N=CN2)C | C21H26BrN7S
